US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-n-hexyl-2-n-hexylimino-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 4.8 g of 1,3-di-n-hexyl-thiourea were reacted according to the prescription given in Example 12, the end product was precipitated with diethyl ether and the remaining oil was treated with cyclohexane.

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-di-n-hexyl-thiourea | 4.8 g | C(CCCCC)NC(=S)NCCCCCC | C13H28N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-n-hexyl-2-n-hexylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCCCCCC)CCCCCC)O)S(N)(=O)=O | InChI=1S/C21H34ClN3O3S2.ClH/c1-3-5-7-9-13-24-20-25(14-10-8-6-4-2)21(26,16-29-20)17-11-12-18(22)19(15-17)30(23,27)28;/h11-12,15,26H,3-10,13-14,16H2,1-2H3,(H2,23,27,28);1H
